US07662958B2
Dimethyl sulfate (22.84 mL, 240 mmol) and dimethyl trithiocarbonate (26.48 mL, 240 mmol) were added to acetonitrile (80 mL). The resultant dark yellow solution was heated to 90° C. for 2 hours. The mixture was then allowed to cool to 55° C. and then a solution of tetrafluoroboric acid (54% in diethyl ether, 48 mL) was added over 5 min time. The resultant solution was stirred for an additional 15 min, followed by pouring it into a solution of ice-cold diethyl ether (600 mL), The white solid that formed was collected and washed with diethyl ether (3×50 mL) and dried in a vacuum oven to provide (bis-methylsulfanyl -methylene)-methyl-sulfonium tetrafluoroborate salt (47.3 g, 83%) as a colorless solid.

reactant | Dimethyl sulfate | 240 mmol, 22.84 mL | S(=O)(=O)(OC)OC | C2H6O4S
reactant | dimethyl trithiocarbonate | 240 mmol, 26.48 mL | C(SC)(SC)=S | C3H6S3
reactant | tetrafluoroboric acid | 48 mL | F[B-](F)(F)F.[H+]
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | (bis-methylsulfanyl -methylene)-methyl-sulfonium tetrafluoroborate salt | 47.3 g, 83% | F[B-](F)(F)F.CSC(SC)=[S+]C | InChI=1S/C4H9S3.BF4/c1-5-4(6-2)7-3;2-1(3,4)5/h1-3H3;/q+1;-1
